US06528653B2
tert-Butyl (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate (0.5 g, 1.45 mmol) was dissolved in dichloromethane (8 ml), cooled to 0° C., treated with trifluoroacetic acid (2 ml) and stirred for 3 hours warming to room temperature. The reaction mixture was evaporated to dryness and triturated with diethyl ether to give 300 mg of (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylic acid as a red solid. MS(ES): m/e 291 [M+H].

reactant | tert-Butyl (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate | 1.45 mmol, 0.5 g | COC1=C(NC=C1)\C=C/1\C2=C(NC1=O)SC(=C2)C(=O)OC(C)(C)C | C17H18N2O4S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylic acid | 300 mg | COC1=C(NC=C1)\C=C/1\C2=C(NC1=O)SC(=C2)C(=O)O | C13H10N2O4S
